US06207693B1
A solution of ethyl 3-[1-(p-toluenesulfonyloxyimino)-ethyl]amino-1H-pyrazole-4-carboxylate (1.00 g) and pyridine (240 mg) in ethanol (20 ml) was refluxed for 3 hours. The reaction mixture was concentrated in vacuo and the residue was diluted with water. The solution was adjusted to pH 4 with 1N hydrochloric acid. The formed precipitate was collected by vacuum filtration to give ethyl 2-methyl-1H-pyrazolo[1,5-b][1,2,4]triazole-7-carboxylate (240 mg).

reactant | ethyl 3-[1-(p-toluenesulfonyloxyimino)-ethyl]amino-1H-pyrazole-4-carboxylate | 1.00 g | C1(=CC=C(C=C1)S(=O)(=O)ON=C(C)NC1=NNC=C1C(=O)OCC)C | C15H18N4O5S
reactant | pyridine | 240 mg | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-methyl-1H-pyrazolo[1,5-b][1,2,4]triazole-7-carboxylate | 240 mg | CC=1NC=2N(N1)N=CC2C(=O)OCC | C8H10N4O2
